***********
*SRC=NML0505;NML0505;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML0505 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML0505S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD205 D (IS=1E-7 N=1.18 RS=1.15 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD205
COUT 3 4 0.5UF 
E1 6 4 1 2 1.15
F1 1 2 VRPL -1.15
RNL 2 1 125
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 52NS 0.3US 0.3US 6.2US 6.8US
CISOL 1 3 28PF
.ENDS NML0505
***********
*SRC=NML0509;NML0509;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML0509 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML0509S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD209 D (IS=1E-7 N=1.18 RS=2 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD209
COUT 3 4 0.5UF 
E1 6 4 1 2 1.95
F1 1 2 VRPL -1.95
RNL 2 1 125
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 92NS 0.35US 0.35US 6US 6.7US
CISOL 1 3 34PF
.ENDS NML0509
***********
*SRC=NML0512;NML0512;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML0512 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML0512S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD212 D (IS=1E-7 N=1.18 RS=3 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD212
COUT 3 4 0.5UF 
E1 6 4 1 2 2.6
F1 1 2 VRPL -2.6
RNL 2 1 125
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 122NS 0.33US 0.33US 6US 6.66US
CISOL 1 3 36PF
.ENDS NML0512
***********
*SRC=NML0515;NML0515;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML0515 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML0515S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD215 D (IS=1E-7 N=1.18 RS=5 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD215
COUT 3 4 0.5UF 
E1 6 4 1 2 3.2
F1 1 2 VRPL -3.2
RNL 2 1 125
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 152NS 0.28US 0.28US 6.04US 6.6US
CISOL 1 3 38PF
.ENDS NML0515
***********
*SRC=NML1205;NML1205;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML1205 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML1205S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD205 D (IS=1E-7 N=1.18 RS=1.15 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD205
COUT 3 4 0.5UF 
E1 6 4 1 2 0.49
F1 1 2 VRPL -0.49
RNL 2 1 576
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 48NS 0.25US 0.25US 6.1US 6.6US
CISOL 1 3 37PF
.ENDS NML1205
***********
*SRC=NML1209;NML1209;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML1209 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML1209S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD209 D (IS=1E-7 N=1.18 RS=2 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD209
COUT 3 4 0.5UF 
E1 6 4 1 2 0.8
F1 1 2 VRPL -0.8
RNL 2 1 576
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 88NS 0.35US 0.35US 6.1US 6.8US
CISOL 1 3 59PF
.ENDS NML1209
***********
*SRC=NML1212;NML1212;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML1212 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML1212S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD212 D (IS=1E-7 N=1.18 RS=3 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD212
COUT 3 4 0.5UF 
E1 6 4 1 2 1.08
F1 1 2 VRPL -1.08
RNL 2 1 576
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 118NS 0.325US 0.325US 6US 6.65US
CISOL 1 3 65PF
.ENDS NML1212
***********
*SRC=NML1215;NML1215;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NML1215 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NML1215S DC-DC CONVERTER MODEL
* 2W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD215 D (IS=1E-7 N=1.18 RS=5 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD215
COUT 3 4 0.5UF 
E1 6 4 1 2 1.31
F1 1 2 VRPL -1.31
RNL 2 1 576
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 148NS 0.33US 0.33US 6US 6.66US
CISOL 1 3 72PF
.ENDS NML1215
***********
*SRC=NMH0505;NMH0505;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH0505 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH0505 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD205 D (IS=1E-7 N=1.18 RS=1.15 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD205
DNEG 5 9 NCLD205x
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.11
FPOS1 1 2 VRPOS 1.11
ENEG1 4 8 1 2 1.11
FNEG1 1 2 VRNEG 1.11
RNL 1 2 139
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 25NS 0.3US 0.3US 6US 6.6US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 25NS 0.3US 0.3US 6US 6.6US
CISPOS 1 3 14.5PF
CISNEG 1 5 14.5PF
.ENDS NMH0505
***********
*SRC=NMH0509;NMH0509;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH0509 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH0509 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD209 D (IS=1E-7 N=1.18 RS=2 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD209
DNEG 5 9 NCLD209
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.91
FPOS1 1 2 VRPOS 1.91
ENEG1 4 8 1 2 1.91
FNEG1 1 2 VRNEG 1.91
RNL 1 2 139
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 45NS 0.35US 0.35US 6US 6.7US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 45NS 0.35US 0.35US 6US 6.7US
CISPOS 1 3 18.5PF
CISNEG 1 5 18.5PF
.ENDS NMH0509
***********
*SRC=NMH0512;NMH0512;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH0512 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH0512 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD212 D (IS=1E-7 N=1.18 RS=3 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD212
DNEG 5 9 NCLD212
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 2.52
FPOS1 1 2 VRPOS 2.52
ENEG1 4 8 1 2 2.52
FNEG1 1 2 VRNEG 2.52
RNL 1 2 139
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 60NS 0.25US 0.25US 6.3US 6.8US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 60NS 0.25US 0.25US 6.3US 6.8US
CISPOS 1 3 20.5PF
CISNEG 1 5 20.5PF
.ENDS NMH0512
***********
*SRC=NMH0515;NMH0515;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH0515 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH0515 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD215 D (IS=1E-7 N=1.18 RS=5 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD215
DNEG 5 9 NCLD215
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 3.13
FPOS1 1 2 VRPOS 3.13
ENEG1 4 8 1 2 3.13
FNEG1 1 2 VRNEG 3.13
RNL 1 2 139
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 75NS 0.3US 0.3US 6.1US 6.7US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 75NS 0.3US 0.3US 6.1US 6.7US
CISPOS 1 3 22PF
CISNEG 1 5 22PF
.ENDS NMH0515
***********
*SRC=NMH1205;NMH1205;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH1205 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH1205 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD205 D (IS=1E-7 N=1.18 RS=1.15 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD205
DNEG 5 9 NCLD205
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 0.465
FPOS1 1 2 VRPOS 0.465
ENEG1 4 8 1 2 0.465
FNEG1 1 2 VRNEG 0.465
RNL 1 2 800
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 55NS 0.3US 0.3US 6US 6.6US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 55NS 0.3US 0.3US 6US 6.6US
CISPOS 1 3 21.5PF
CISNEG 1 5 21.5PF
.ENDS NMH1205
***********
*SRC=NMH1209;NMH1209;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH1209 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH1209 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD209 D (IS=1E-7 N=1.18 RS=2 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD209
DNEG 5 9 NCLD209
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 0.8
FPOS1 1 2 VRPOS 0.8
ENEG1 4 8 1 2 0.8
FNEG1 1 2 VRNEG 0.8
RNL 1 2 800
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 95NS 0.35US 0.35US 6US 6.7US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 95NS 0.35US 0.35US 6US 6.7US
CISPOS 1 3 28.5PF
CISNEG 1 5 28.5PF
.ENDS NMH1209
***********
*SRC=NMH1212;NMH1212;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH1212 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH1212 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD212 D (IS=1E-7 N=1.18 RS=3 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD212
DNEG 5 9 NCLD212
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.05
FPOS1 1 2 VRPOS 1.05
ENEG1 4 8 1 2 1.05
FNEG1 1 2 VRNEG 1.05
RNL 1 2 800
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 125NS 0.25US 0.25US 6.3US 6.8US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 125NS 0.25US 0.25US 6.3US 6.8US
CISPOS 1 3 36.5PF
CISNEG 1 5 36.5PF
.ENDS NMH1212
***********
*SRC=NMH1215;NMH1215;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMH1215 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMH1215 S/D DC-DC CONVERTER MACRO MODEL
* 2W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD215 D (IS=1E-7 N=1.18 RS=5 EG=1.11 XTI=3
+                 BV=40 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD215
DNEG 5 9 NCLD215
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.3
FPOS1 1 2 VRPOS 1.3
ENEG1 4 8 1 2 1.3
FNEG1 1 2 VRNEG 1.3
RNL 1 2 800
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 155NS 0.3US 0.3US 6.1US 6.7US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 155NS 0.3US 0.3US 6.1US 6.7US
CISPOS 1 3 40.5PF
CISNEG 1 5 40.5PF
.ENDS NMH1215
***********
*SRC=NME0505;NME0505;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME0505 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME0505S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD105 D (IS=1E-7 N=2.3 RS=2.8 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD105
COUT 3 4 0.5UF 
E1 6 4 1 2 1.25
F1 1 2 VRPL -1.25
RNL 2 1 250
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 51NS 0.2US 0.2US 4.6US 5US
CISOL 1 3 24PF
.ENDS NME0505
***********
*SRC=NME0509;NME0509;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME0509 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME0509S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD109 D (IS=1E-7 N=2.3 RS=7 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD109
COUT 3 4 0.5UF 
E1 6 4 1 2 2.00
F1 1 2 VRPL -2.00
RNL 2 1 250
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 91NS 0.27US 0.27US 4.5US 5.04US
CISOL 1 3 32PF
.ENDS NME0509
***********
*SRC=NME0512;NME0512;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME0512 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME0512S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD112 D (IS=1E-7 N=2.3 RS=8 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD112
COUT 3 4 0.5UF 
E1 6 4 1 2 2.60
F1 1 2 VRPL -2.60
RNL 2 1 250
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 121NS 0.25US 0.25US 4.4US 4.9US
CISOL 1 3 26PF
.ENDS NME0512
***********
*SRC=NME0515;NME0515;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME0515 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME0515S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD115 D (IS=1E-7 N=2.3 RS=9 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD115
COUT 3 4 0.5UF 
E1 6 4 1 2 3.20
F1 1 2 VRPL -3.20
RNL 2 1 250
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 151NS 0.25US 0.25US 4.6US 5.1US
CISOL 1 3 32PF
.ENDS NME0515
***********
*SRC=NME1205;NME1205;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME1205 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME1205S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD105 D (IS=1E-7 N=2.3 RS=2.8 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD105
COUT 3 4 0.5UF 
E1 6 4 1 2 0.51
F1 1 2 VRPL -0.51
RNL 2 1 1445
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 61NS 0.3US 0.3US 4.5US 5.1US
CISOL 1 3 33PF
.ENDS NME1205
***********
*SRC=NME1209;NME1209;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME1209 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME1209S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD109 D (IS=1E-7 N=2.3 RS=7 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD109
COUT 3 4 0.5UF 
E1 6 4 1 2 0.83
F1 1 2 VRPL -0.83
RNL 2 1 1445
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 101NS 0.28US 0.28US 4.5US 5.06US
CISOL 1 3 51PF
.ENDS NME1209
***********
*SRC=NME1212;NME1212;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME1212 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME1212S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD112 D (IS=1E-7 N=2.3 RS=8 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD112
COUT 3 4 0.5UF 
E1 6 4 1 2 1.1
F1 1 2 VRPL -1.1
RNL 2 1 1445
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 131NS 0.26US 0.26US 4.4US 4.92US
CISOL 1 3 59PF
.ENDS NME1212
***********
*SRC=NME1215;NME1215;DC-DC Conv;Newport;
*SYM=DCDC1
.SUBCKT NME1215 1 2 3 4
* NODE DESCRIPTION: VIN GND +VOUT 0V
* NME1215S/D/M/TM DC-DC CONVERTER MODEL
* 1W ISOLATED SINGLE O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD115 D (IS=1E-7 N=2.3 RS=9 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DOUT 5 3 NCLD115
COUT 3 4 0.5UF 
E1 6 4 1 2 1.33
F1 1 2 VRPL -1.33
RNL 2 1 1445
CIN 2 1 0.5UF
VRPL 5 6 DC 0 PULSE -0.68 0.02 161NS 0.2US 0.2US 4.4US 4.8US
CISOL 1 3 61PF
.ENDS NME1215
***********
*SRC=NMA0505;NMA0505;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA0505 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA0505 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD105 D (IS=1E-7 N=2.3 RS=2.8 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD105
DNEG 5 9 NCLD105
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.20
FPOS1 1 2 VRPOS 1.20
ENEG1 4 8 1 2 1.20
FNEG1 1 2 VRNEG 1.20
RNL 1 2 250
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 0NS 0.29US 0.29US 4.5US 5.08US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 0NS 0.29US 0.29US 4.5US 5.08US
CISPOS 1 3 9PF
CISNEG 1 5 9PF
.ENDS NMA0505
***********
*SRC=NMA0509;NMA0509;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA0509 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA0509 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NCL DIODE MODEL (NOTE: THIS IS NOT A REAL DIODE)
.MODEL NCLD109 D IS=1E-7 N=2.3 RS=7.0 EG=1.11 XTI=3
+                BV=50 IBV=25.9E-3 TT=2E-9
****
DPOS 7 3 NCLD109
DNEG 5 9 NCLD109
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 2.0
FPOS1 1 2 VRPOS 2.0
ENEG1 4 8 1 2 2.0
FNEG1 1 2 VRNEG 2.0
RNL 1 2 250
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 80NS 0.25US 0.25US 4.4US 4.9US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 80NS 0.25US 0.25US 4.4US 4.9US
CISPOS 1 3 12.5PF
CISNEG 1 5 12.5PF
.ENDS NMA0509
***********
*SRC=NMA0512;NMA0512;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA0512 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA0512 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NCL DIODE MODEL (NOTE: THIS IS NOT A REAL DIODE)
.MODEL NCLD112 D IS=1E-7 N=2.3 RS=8.0 EG=1.11 XTI=3
+                BV=50 IBV=25.9E-3 TT=2E-9
DPOS 7 3 NCLD112
DNEG 5 9 NCLD112
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 2.60
FPOS1 1 2 VRPOS 2.60
ENEG1 4 8 1 2 2.60
FNEG1 1 2 VRNEG 2.60
RNL 1 2 250
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 110NS 0.4US 0.4US 4.4US 5.2US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 110NS 0.4US 0.4US 4.4US 5.2US
CISPOS 1 3 13PF
CISNEG 1 5 13PF
.ENDS NMA0512
***********
*SRC=NMA0515;NMA0515;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA0515 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA0515 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NCL DIODE MODEL (NOTE: THIS IS NOT A REAL DIODE)
.MODEL NCLD115 D IS=1E-7 N=2.3 RS=9.0 EG=1.11 XTI=3
+                BV=50 IBV=25.9E-3 TT=2E-9
DPOS 7 3 NCLD115
DNEG 5 9 NCLD115
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 3.20
FPOS1 1 2 VRPOS 3.20
ENEG1 4 8 1 2 3.20
FNEG1 1 2 VRNEG 3.20
RNL 1 2 250
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 140NS 0.3US 0.3US 4.5US 5.1US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 140NS 0.3US 0.3US 4.5US 5.1US
CISPOS 1 3 16PF
CISNEG 1 5 16PF
.ENDS NMA0515
***********
*SRC=NMA1205;NMA1205;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA1205 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA1205 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NOTE: NOT A TRUE DIODE USE ONLY WITH MACRO-MODEL
.MODEL NCLD105 D (IS=1E-7 N=2.3 RS=2.8 EG=1.11 XTI=3
+                 BV=50 IBV=25.9E-3 TT=2E-9 )
DPOS 7 3 NCLD105
DNEG 5 9 NCLD105
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 0.5
FPOS1 1 2 VRPOS 0.5
ENEG1 4 8 1 2 0.5
FNEG1 1 2 VRNEG 0.5
RNL 1 2 1445
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 55NS 0.27US 0.27US 4.3US 4.84US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 55NS 0.27US 0.27US 4.3US 4.84US
CISPOS 1 3 16.5PF
CISNEG 1 5 16.5PF
.ENDS NMA1205
***********
*SRC=NMA1209;NMA1209;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA1209 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA1209 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NCL DIODE MODEL (NOTE: THIS IS NOT A REAL DIODE)
.MODEL NCLD109 D IS=1E-7 N=2.3 RS=7.0 EG=1.11 XTI=3
+                BV=50 IBV=25.9E-3 TT=2E-9
DPOS 7 3 NCLD109
DNEG 5 9 NCLD109
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 0.82
FPOS1 1 2 VRPOS 0.82
ENEG1 4 8 1 2 0.82
FNEG1 1 2 VRNEG 0.82
RNL 1 2 1445
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 99NS 0.25US 0.25US 4.45US 4.95US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 99NS 0.25US 0.25US 4.45US 4.95US
CISPOS 1 3 20PF
CISNEG 1 5 20PF
.ENDS NMA1209
***********
*SRC=NMA1212;NMA1212;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA1212 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA1212 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NCL DIODE MODEL (NOTE: THIS IS NOT A REAL DIODE)
.MODEL NCLD112 D IS=1E-7 N=2.3 RS=8.0 EG=1.11 XTI=3
+                BV=50 IBV=25.9E-3 TT=2E-9
DPOS 7 3 NCLD112
DNEG 5 9 NCLD112
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.08
FPOS1 1 2 VRPOS 1.08
ENEG1 4 8 1 2 1.08
FNEG1 1 2 VRNEG 1.08
RNL 1 2 1445
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 122NS 0.3US 0.3US 4.3US 4.9US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 122NS 0.3US 0.3US 4.3US 4.9US
CISPOS 1 3 29.5PF
CISNEG 1 5 29.5PF
.ENDS NMA1212
***********
*SRC=NMA1215;NMA1215;DC-DC Conv;Newport;
*SYM=DCDC2
.SUBCKT NMA1215 1 2 3 4 5
* NODE DESCRIPTION: VIN GND +VOUT 0V -VOUT
* NMA1215 S/D/M/TM DC-DC CONVERTER MACRO MODEL
* 1W ISOLATED DUAL O/P DC-DC CONVERTER 
* NCL DIODE MODEL (NOTE: THIS IS NOT A REAL DIODE)
.MODEL NCLD115 D IS=1E-7 N=2.3 RS=9.0 EG=1.11 XTI=3
+                BV=50 IBV=25.9E-3 TT=2E-9
DPOS 7 3 NCLD115
DNEG 5 9 NCLD115
CPOS 3 4 0.5UF 
CNEG 4 5 0.5UF
EPOS1 6 4 1 2 1.33
FPOS1 1 2 VRPOS 1.33
ENEG1 4 8 1 2 1.33
FNEG1 1 2 VRNEG 1.33
RNL 1 2 1445
CIN 1 2 0.5UF
VRPOS 6 7 DC 0 PULSE 0.68 -0.02 155NS 0.2US 0.2US 4.5US 4.9US
VRNEG 9 8 DC 0 PULSE 0.68 -0.02 155NS 0.2US 0.2US 4.5US 4.9US
CISPOS 1 3 30PF
CISNEG 1 5 30PF
.ENDS NMA1215
**************
